US08431596B2
N-[5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-acrylamide
To a solution of 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (0.3 g, 1.12 mmol) in dichloromethane (10 mL), triethylamine (0.19 mL, 1.34 mmol) and acryloyl chloride (0.11 mL, 1.23 mmol) were added successively and the mixture was stirred overnight. The reaction was hydrolysed, and the organic phase washed with water, dried over magnesium sulfate and concentrated under reduced pressure. A minimum amount of dichloromethane was added to the crude, diethylether was added and the resulting solid collected by filtration. LCMS Method: 2: RT: 4.23 min, 323 [M+1].

reactant | 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 1.12 mmol, 0.3 g | O1CCOC2=C1C=CC(=C2)C2=CC=CC=1N2N=C(N1)N | C14H12N4O2
reactant | triethylamine | 1.34 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 1.23 mmol, 0.11 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-acrylamide | O1CCOC2=C1C=CC(=C2)C2=CC=CC=1N2N=C(N1)NC(C=C)=O | C17H14N4O3
